US06818772B2
cis-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-2-(4-fluorophenyl)acetamide
A solution of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine (20 mg, 0.07 mmol) in dichloromethane (1.0 mL) and triethylamine (0.01 mL) at 20° C. was treated with (4-fluoro-phenyl)-acetyl chloride (12 mg, 0.07 mmol). The reaction was shaken at room temperature for 18 hours then concentrated. The crude compound was purified by reverse phase HPLC to provide the desired compound. MS (ESI (+)) m/e 412 (M+H)+; 1H NMR (500 MHz, DMSO) δ ppm 8.87 (d, 1 H), 8.74 (d, 1 H), 8.54 (d, 1 H), 8.01 (d, 1 H), 7.95 (m, 1 H), 7.80 (dd, 1 H), 7.31 (m, 2 H), 7.12 (m, 2 H), 6.97 (d, 1 H), 3.91 (br.s, 1 H), 3.80 (br.s, 1 H), 3.47 (s, 2 H), 1.57-1.98 (m, 8 H).

reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.07 mmol, 20 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | (4-fluoro-phenyl)-acetyl chloride | 0.07 mmol, 12 mg | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.01 mL | C(C)N(CC)CC | C6H15N
product | cis-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-2-(4-fluorophenyl)acetamide | ClC1=CC=C2C(=CC=NC2=C1)N[C@H]1CC[C@H](CC1)NC(CC1=CC=C(C=C1)F)=O | C23H23ClFN3O
